US04409228
A suspension of 175.5 g of 4-acetamidopiperidine, 269.7 g of potassium carbonate and 182.5 g of 2.6-dichloropyridine in 1600 ml of n.penytylic alcohol is heated at reflux with stirring for 40 hours. The reaction mixture is cooled, the solvent is removed under reduced pressure and the residue is taken up with 100 mlof water. The solid product is extracted with 2000 ml of methylene chloride, the organic phase is washed with water, it is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is taken up with 1200 ml of diisopropylic ether, stirred for 30 minutes, filtered and washed with diisopropylic ether. 246 g of 4-acetamido-1-(6-chloro-2-pyridyl)piperidine are obtained; m.p. 153° to 155° C.

reactant | 4-acetamidopiperidine | 175.5 g | C(C)(=O)NC1CCNCC1 | C7H14N2O
reactant | potassium carbonate | 269.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2.6-dichloropyridine | 182.5 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
product | 4-acetamido-1-(6-chloro-2-pyridyl)piperidine | 246 g | C(C)(=O)NC1CCN(CC1)C1=NC(=CC=C1)Cl | C12H16ClN3O
